US06673818B2
To a solution of phenyl[(trimethylsilyl)-oxy]aceto-nitrile (13.7 g, 60.7 mmol) in anhydrous THF (140 mL) cooled in a dry ice/acetone bath, was added a ThF solution of lithium bis(trimethylsilyl)amide(62 mL 1.0 M) slowly over 15 minutes. The reaction mixture was stirred for 45 minutes cooling at −78° C., then a solution of 5-(bromomethyl)-1,3-difluoro-2-(methylthio)benzene (14.7 g, 58 mmol) in anhydrous THF (20 mL) was added over 10 minutes. The reaction mixture was allowed to warm to room temperature, and stirred for 18 hours. To this mixture was added 5% HCl (300 mL) and the mixture stirred for one hour. The resulting oil was extracted with ethyl acetate (1×400 mL, 2×100 mL). To the combined extracts was added 5% sodium hydroxide (200 mL), and the mixture stirred for one hour. Additional water (200 mL) was added, the organic phase was separated, and the aqueous phase extracted with ethyl acetate (2×150 mL). The combined extracts were dried using magnesium sulfate, and concentrated. Chromatography on silica gel with 15% dichloromethane in hexanes initially and eluting the product with 30% gave 2-[3,5-difluoro-4-(methylthio)phenyl]-1-phenylethanone as light yelow solid (11.0 g, 68%). MP 71.8-71.9° C. 1H NMR (CDCl3/400 MHz) 7.96-7.99 (m, 2H), 7.57-7.61 (m, 1H), 7.24-7.50 (m, 2H), 6.80-6.85 (m, 2H), 4.24 (s, 2H), 2.42 (s, 3H). HRMS m/z 279.0667 (M+H+, calcd 279.0655). Anal. Calcd for C15H12F2OS: C, 64.73; H, 4.35; Found: C, 64.70; H, 4.38.

reactant | phenyl[(trimethylsilyl)-oxy]aceto-nitrile | 60.7 mmol, 13.7 g | C1(=CC=CC=C1)C(C#N)O[Si](C)(C)C | C11H15NOSi
reactant | lithium bis(trimethylsilyl)amide | 1.0 M, 62 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 5-(bromomethyl)-1,3-difluoro-2-(methylthio)benzene | 58 mmol, 14.7 g | BrCC=1C=C(C(=C(C1)F)SC)F | C8H7BrF2S
reactant | HCl | 300 mL | Cl | ClH
solvent | THF | 140 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-[3,5-difluoro-4-(methylthio)phenyl]-1-phenylethanone | FC=1C=C(C=C(C1SC)F)CC(=O)C1=CC=CC=C1 | C15H12F2OS
